US04567175
A mixture of 1.5 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 0.22 g of sodium hydride (62.2% oil dispersion) and 45 ml of benzene is refluxed for one hour. After cooling, 0.53 g of dimethyl sulfate is added to the mixture, and the mixture is stirred at room temperature for 68 hours. The mixture is further stirred at 50° C. for 3 hours. The reaction mixture is washed with an aqueous 10% sodium hydroxide solution and water, successively. The washed solution is dried and evaporated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography (solvent, chloroform:ethanol (9:1)), converted into its hydrochloride and then recrystallized from a mixture of ethanol and ether. 0.7 g of (+)-cis-2-(4-methoxyphenyl)-3-methoxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride is obtained.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.5 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC(=C2)Cl | C20H23ClN2O3S
reactant | sodium hydride | 0.22 g | [H-].[Na+]
reactant | dimethyl sulfate | 0.53 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | (+)-cis-2-(4-methoxyphenyl)-3-methoxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 0.7 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC)=O)CCN(C)C)C=CC(=C2)Cl | InChI=1S/C21H25ClN2O3S.ClH/c1-23(2)11-12-24-17-10-7-15(22)13-18(17)28-20(19(27-4)21(24)25)14-5-8-16(26-3)9-6-14;/h5-10,13,19-20H,11-12H2,1-4H3;1H/t19-,20+;/m1./s1
